US06340679B1
(a) 4-{4-[(2S)-2-tert-Butoxycarbonyl-2-(4-chlorobenzenesulfonylamino)-ethyl]-phenoxy}-butyric acid
200 mg of 4-[4-((2S)-2-amino-2-tert-butoxycarbonyl-ethyl)-phenoxy]-butyric acid were dissolved in 2 ml of DMF and cooled to 0° C. 220 mg of 4-chlorobenzenesulfonyl chloride and 270 mg of diisopropylethylamine were added and the reaction mixture was stirred at 0° C. for 2 hours. The reaction mixture was cooled to −25° C. for 16 hours and then warmed to room temperature. The reaction was quenched by the addition of water, and the mixture was extracted three times with dichloromethane. The combined organic phases were dried with sodium sulfate, filtered and the solvent was removed in vacuo. The residue was chromatographed on silica gel eluting with dichloromethane/methanol/water/acetic acid (9/1/0.1/0.1). Yield 84 mg. MS (ES+): m/e=498.1 (M+H)+; 442.1.

reactant | 4-[4-((2S)-2-amino-2-tert-butoxycarbonyl-ethyl)-phenoxy]-butyric acid | 200 mg | N[C@@H](CC1=CC=C(OCCCC(=O)O)C=C1)C(=O)OC(C)(C)C | C17H25NO5
reactant | 4-chlorobenzenesulfonyl chloride | 220 mg | ClC1=CC=C(C=C1)S(=O)(=O)Cl | C6H4Cl2O2S
reactant | diisopropylethylamine | 270 mg | C(C)(C)N(CC)C(C)C | C8H19N
solvent | DMF | 2 ml | CN(C)C=O | C3H7NO
product | 4-{4-[(2S)-2-tert-Butoxycarbonyl-2-(4-chlorobenzenesulfonylamino)-ethyl]-phenoxy}-butyric acid | C(C)(C)(C)OC(=O)[C@H](CC1=CC=C(OCCCC(=O)O)C=C1)NS(=O)(=O)C1=CC=C(C=C1)Cl | C23H28ClNO7S
